US06924278B2
A solution of (2R)-4-benzyl-1-tert-butoxycarbonyl-2-(3,4-dimethylbenzyl)piperazine (48.5 g) in methanol (730 ml) was hydrogenated over 20% palladium hydroxide-carbon (0.3 g) at room temperture under atmospheric pressure. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (10:1). The fractions containing the objective compound was collected and evaporated under reduced pressure to give an oil of (2R)-1-tert -butoxycarbonyl-2-(3,4-dimethylbenzyl)piperazine (33.7 g).

reactant | (2R)-4-benzyl-1-tert-butoxycarbonyl-2-(3,4-dimethylbenzyl)piperazine | 48.5 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)C)C | C25H34N2O2
solvent | methanol | 730 ml | CO | CH4O
catalyst | palladium hydroxide carbon | 0.3 g | [OH-].[Pd+2].[OH-].[C]
product | (2R)-1-tert -butoxycarbonyl-2-(3,4-dimethylbenzyl)piperazine | 33.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)CC1=CC(=C(C=C1)C)C | C18H28N2O2
